Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
tramadol / fentanyl / Compazine / Macrobid / Neo-Synephrine 
(phenylephrine) / prochlorperazine / Sulfa (Sulfonamide 
Antibiotics) / trimethoprim / phenylephrine
 
Attending: ___.
 
Chief Complaint:
Right lower extremity rest pain
 
Major Surgical or Invasive Procedure:
R leg angiogram, plasty of R popliteal artery on ___, and a 
repeat R leg angiogram, re-plasty of R popliteal artery, 
stenting of R popliteal artery on ___

 
History of Present Illness:
___ is a ___ woman
who presents to our service as an inpatient consult for right
foot rest pain and discoloration consistent with dependent
rubor.  She was therefore offered a CTA, which revealed
heavily calcified iliac vessels with it being unclear if these
were deep patent, as well as the suggestion of a right distal
SFA/popliteal occlusion.  She was therefore offered right
lower extremity angiogram with possible intervention.
 
Past Medical History:
PAD, atrial fibrillation (previously treated with Eliquis
which was d/c'd after a recent head CT was c/f small bleed),
GERD, hypertension, CHF, HLD, HTN, hypothyroidism, polymyalgia 
on
long term prednisone, spinal stenosis, vaginal pessary, iron
deficiency anemia, DM2, SBO
 
Social History:
___
Family History:
FH: Father died at the age of ___ from heart disease.  Mother 
died
at the age of ___ from heart disease.
 
Physical Exam:
ADMISSION EXAM:
Gen: NAD, A&Ox2, some confusion
Pulm: Non-labored breathing, on RA
CV: RRR
Abd: Soft, NT, ND, BS+, no guard/rebound
Ext: Warm bilaterally, mild RLE edema/erythema, R: P///D faint, 
L:P//D/D
motor/sensation intact

DISCHARGE EXAM:
Gen: NAD, A&Ox2, some confusion
Pulm: Non-labored breathing, on RA
CV: RRR
Abd: Soft, NT, ND, BS+, no guard/rebound
Ext: Warm bilaterally, mild RLE edema/erythema, R: P///D, 
L:P//D/D
motor/sensation intact
 
Pertinent Results:
LAB:

___ 05:55AM BLOOD Hct-33.2*
___ 06:30AM BLOOD WBC-14.3*# RBC-4.30 Hgb-11.2 Hct-37.0 
MCV-86 MCH-26.0 MCHC-30.3* RDW-15.8* RDWSD-49.4* Plt ___
___ 05:00AM BLOOD Hct-32.6*
___ 05:40AM BLOOD WBC-10.4* RBC-3.95 Hgb-10.1* Hct-33.4* 
MCV-85 MCH-25.6* MCHC-30.2* RDW-15.9* RDWSD-48.3* Plt ___
___ 06:30AM BLOOD ___ PTT-25.7 ___
___ 05:00AM BLOOD ___ PTT-25.4 ___
___ 05:55AM BLOOD Creat-0.8 K-4.0
___ 06:30AM BLOOD Glucose-129* UreaN-29* Creat-0.8 Na-144 
K-3.6 Cl-102 HCO3-27 AnGap-15
___ 05:00AM BLOOD Glucose-106* UreaN-25* Creat-0.7 Na-142 
K-4.3 Cl-106 HCO3-24 AnGap-12
___ 05:40AM BLOOD Glucose-114* UreaN-26* Creat-0.8 Na-139 
K-3.9 Cl-101 HCO3-26 AnGap-12
___ 06:30AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.7
___ 05:00AM BLOOD Calcium-8.1* Phos-2.6* Mg-2.7*
___ 05:40AM BLOOD Calcium-8.4 Phos-2.6* Mg-2.3

IMAGING:
Art Ext (Rest Only) ___:
FINDINGS:  
  
On the right side, triphasic Doppler waveforms are seen in the 
right femoral artery.  A monophasic waveform is seen within the 
popliteal artery.  No waveform is identified within the 
posterior tibial artery.  A monophasic waveform is identified 
within the dorsalis pedis artery. 
The right ABI was 0. 
  
On the left side, triphasic Doppler waveforms are seen at the 
left femoral and popliteal arteries.  The posterior tibial 
artery waveform is absent.  There is a monophasic waveform 
within the dorsalis pedis artery. 
The left ABI was 0.30. 
  
IMPRESSION:  
  
Severe arterial insufficiency of the bilateral lower extremities 
below the 
knee. 

Arterial Duplex RLE ___:
FINDINGS:  
  
There is moderate to severe right common femoral artery plaque. 
  
Peak systolic velocities are as follows: 
Common femoral artery waveform is triphasic. Peak systolic 
velocity is 137 
cm/sec. Proximal superficial femoral artery waveform is 
triphasic. Peak systolic velocity is 70 cm/sec 
Mid superficial femoral artery waveform is biphasic. Peak 
systolic velocity is 34 cm/sec 
Distal superficial femoral artery waveform is biphasic. Peak 
systolic velocity is 36 cm/sec 
The proximal popliteal artery is occluded.  There is distal 
reconstitution by collaterals. 
Posterior tibial and peroneal arteries are not visualized, in 
keeping with CTA finding of probable proximal occlusion. 
Right dorsalis pedis artery is patent.  Peak systolic velocity 
is 46 cm/sec. 

IMPRESSION:  
Severe atherosclerotic disease of the right lower extremity, as 
described.  
There is probable severe stenosis involving the right 
superficial femoral 
artery.  The proximal right popliteal artery is occluded with 
distal 
reconstitution by collaterals.  Additionally, the right 
posterior tibial and peroneal arteries are not visualized, in 
keeping with CTA finding of probable  proximal occlusion.  The 
right dorsalis pedis artery is patent, compatible with finding 
of one-vessel runoff to the right foot. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with  Right lower extremity 
rest pain who was admitted to the ___ 
___ on ___. The patient was taken to the endovascular 
suite and underwent Right lower extremity angiogram and 
Selective catheterization of the right anterior tibial
artery, a third-order vessel. For details of the procedure, 
please see the surgeon's operative note. The patient tolerated 
the procedure well without complications and was brought to the 
post-anesthesia care unit in stable condition. In the PACU, her 
right lower extremity pulses were difficult to Doppler, and ABIs 
were performed, wherein she was found to have an occluded right 
popliteal artery. She was taken back to the OR on ___ for  
right lower extremity angiogram and selective catheterization of 
the right popliteal artery as well as Percutaneous transluminal 
angioplasty and stenting of the
right popliteal artery. She was transferred to the PACU in 
stable condition, and then to the vascular surgery floor.

Post-operatively, she did well without any groin swelling. She 
was able to tolerate a regular diet, get out of bed and ambulate 
without assistance, void without issues, and pain was controlled 
on oral medications alone. She was deemed ready for discharge, 
and was given the appropriate discharge and follow-up 
instructions.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 40 mg PO QPM 
2. Esomeprazole 20 mg Other DAILY 
3. Furosemide 20 mg PO DAILY 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. nebivolol 5 mg oral DAILY 
6. PredniSONE 3 mg PO DAILY 
7. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM  
4.  Esomeprazole 20 mg Other DAILY  
5.  Furosemide 20 mg PO DAILY  
6.  Levothyroxine Sodium 88 mcg PO DAILY  
7.  nebivolol 5 mg oral DAILY  
8.  PredniSONE 3 mg PO DAILY  
9.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right lower extremity rest pain with threatened leg.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ and underwent R leg angiogram, plasty 
of R popliteal artery on ___, and a repeat R leg angiogram, 
re-plasty of R popliteal artery, stenting of R popliteal artery 
on ___. You are now stable for discharge home.

MEDICATION:
 Take Aspirin 81mg once daily
 If instructed, take Plavix (Clopidogrel) 75mg once daily
 Continue all other medications you were taking before surgery, 
unless otherwise directed
 You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort
WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
 Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
 Avoid prolonged periods of standing or sitting without your 
legs elevated
 It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
 Drink plenty of fluids and eat small frequent meals
 It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
 To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
 When you go home, you may walk and use stairs
 You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
 Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
 No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
 After 1 week, you may resume sexual activity
 After 1 week, gradually increase your activities and distance 
walked as you can tolerate
 No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
 Numbness, coldness or pain in lower extremities 
 Temperature greater than 101.5F for 24 hours
 New or increased drainage from incision or white, yellow or 
green drainage from incisions
 Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
 Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___